US06297232B1
a) (2S)-2-Amino-5-(methylamino)-5-oxo-pentanamide
N,N-Diisopropylethylamine (2.0 ml) was added to a solution of (4S)-5-amino-4-[[(1,1-dimethylethoxy)carbonyl]amino]-5-oxo-pentanoic acid (0.49 g), bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (1.20 g) and methylamine (0.16 g) in acetonitrile (20 ml). The reaction mixture was stirred at room temperature for 2 hours then concentrated. The residue was taken into 4M HCl in 1,4-dioxane (20 ml), stirred for 4 hours then concentrated. Purification (Preparative C18 125 Å bulk packing material, water:methanol, gradient elution 0:100 to 100:0) gave the sub-title compound (0.48 g).

reactant | N,N-Diisopropylethylamine | 2.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (4S)-5-amino-4-[[(1,1-dimethylethoxy)carbonyl]amino]-5-oxo-pentanoic acid | 0.49 g | NC([C@H](CCC(=O)O)NC(=O)OC(C)(C)C)=O | C10H18N2O5
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 1.20 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | methylamine | 0.16 g | CN | CH5N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (2S)-2-Amino-5-(methylamino)-5-oxo-pentanamide | 0.48 g | N[C@H](C(=O)N)CCC(=O)NC | C6H13N3O2
